US06703505B2
9-Methyl-3-(1 H-tetrazol-5-yl)-4H-pyrido-[1,2-a]-pyrimidin-4-one (63 g, 0.28 mols) is suspended in methanol (1000 ml). The resulting suspension is kept at 45° C. and slowly added with a 45% potassium hydroxide aqueous solution to pH 9-9.5. The suspension is stirred at 45° C. for about 15 minutes and then cooled to 20° C. The precipitate is filtered, washed with methanol and dried under vacuum at 80° C., to obtain Pemirolast Potassium (71.9 g; 0.27 mols, 96% yield) with HPLC purity >99.8%. 1H NMR(D2O, TMS) d (ppm): 2.02 (s, 3H); 6.83 (t, 1H); 7.22 (d, 1H); 8.18 (s, 1H); 8.47 (d, 1H).

reactant | 9-Methyl-3-(1 H-tetrazol-5-yl)-4H-pyrido-[1,2-a]-pyrimidin-4-one | 0.28 mols, 63 g | CC1=CC=CN2C1=NC=C(C2=O)C2=NN=NN2 | C10H8N6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 1000 ml | CO | CH4O
product | Pemirolast Potassium | 0.27 mols, 71.9 g, 96% yield | CC1=CC=CN2C1=NC=C(C2=O)C=3[N-]N=NN3.[K+] | InChI=1S/C10H7N6O.K/c1-6-3-2-4-16-9(6)11-5-7(10(16)17)8-12-14-15-13-8;/h2-5H,1H3;/q-1;+1
